US04533738
A mixture of 7-[2-(3-thietanyloxyimino)-2-(2-formamidothiazol-4-yl)acetamido]-3-(1-pyridiniomethyl)-3-cephem-4-carboxylate (syn isomer) (1.1 g) and conc. hydrochloric acid (0.8 g) in methanol (80 ml) was stirred at room temperature for 3 hours. Methanol was evaporated in vacuo and the residue was pulverized with isopropyl ether. The solid was dissolved in water (50 ml) and the solution was adjusted to pH 2.0 with 10% hydrochloric acid. The insoluble substance was filtered off. The filtrate was subjected to column chromatography on macroporous non-ionic adsorption resin "Diaion HP-20" (Trademark: prepared by Mitsubishi Chemical Industries) and eluted with 10% aqueous solution of isopropyl alcohol. The fractions containing the object compound were concentrated and lyophilized to give 7-[2-(3-thietanyloxyimino)-2-(2-aminothiazol-4-yl)-acetamido]-3-(1-pyridiniomethyl)-3-cephem-4-carboxylate (syn isomer) (0.45 g).

reactant | 7-[2-(3-thietanyloxyimino)-2-(2-formamidothiazol-4-yl)acetamido]-3-(1-pyridiniomethyl)-3-cephem-4-carboxylate | 1.1 g | S1CC(C1)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C[N+]2=CC=CC=C2)C(=O)[O-])C1=O)C=1N=C(SC1)NC=O | C22H20N6O6S3
reactant | hydrochloric acid | 0.8 g | Cl | ClH
solvent | methanol | 80 ml | CO | CH4O
product | 7-[2-(3-thietanyloxyimino)-2-(2-aminothiazol-4-yl)-acetamido]-3-(1-pyridiniomethyl)-3-cephem-4-carboxylate | 0.45 g | S1CC(C1)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C[N+]2=CC=CC=C2)C(=O)[O-])C1=O)C=1N=C(SC1)N | C21H20N6O5S3
